US03950528
3-Amino-1-(4-phenylbenzyl)-pyrazol-5-one ##SPC22##
A solution of 29 g of 4-phenylbenzylhydrazine in 60 ml of ethanol was added dropwise, under nitrogen, to a solution of 23.4 g (0.147 mol) of β-amino-β-ethoxyacrylic acid ethyl ester and 1 g of p-toluenesulphonic acid in 100 ml of ethanol. During addition the temperature rose from 22° to 32°C. After standing overnight, the reaction solution was concentrated in vacuo, the precipitate which separated out was dissolved in 2 N sodium hydroxide solution and the alkaline solution was repeatedly extracted with ether. Addition of dilute acetic acid until the mixture reacted weakly acid yielded the compound identified above, which melted as 185°-186° after recrystallisation from ethanol. 13 g (33%).

reactant | 4-phenylbenzylhydrazine | 29 g | C1(=CC=CC=C1)C1=CC=C(CNN)C=C1 | C13H14N2
reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 0.147 mol, 23.4 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | p-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-Amino-1-(4-phenylbenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C16H15N3O
